US04119667
Preparation of N,N'-Bis[3,5-dichlorophenyl]formamidine hydrochloride
N,N'-Bis[3,5-dichlorophenyl]formamidine (2 g.) is dissolved in ether (50 ml) and anhydrous hydrochloric acid is bubbled through the reaction mixture to give 1.9 g. of product, which precipitated from the reaction mixture, m.p. 265°-8° C.

reactant | N,N'-Bis[3,5-dichlorophenyl]formamidine | 2 g | ClC=1C=C(C=C(C1)Cl)NC=NC1=CC(=CC(=C1)Cl)Cl | C13H8Cl4N2
solvent | ether | 50 ml | CCOCC | C4H10O
product | N,N'-Bis[3,5-dichlorophenyl]formamidine hydrochloride | Cl.ClC=1C=C(C=C(C1)Cl)NC=NC1=CC(=CC(=C1)Cl)Cl | InChI=1S/C13H8Cl4N2.ClH/c14-8-1-9(15)4-12(3-8)18-7-19-13-5-10(16)2-11(17)6-13;/h1-7H,(H,18,19);1H
